US06653471B2
To a solution of 2-(2-methanesulfonyloxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester (158 mg, 0.43 mmol) in CH3CN is added excess diethylamine (>3 eq) and excess K2CO3. The reaction mixture is stirred overnight at 83° C. in a sealed tube. The reaction mixture is then extracted with CH2Cl2 and washed with water. The aqueous wash is then extracted twice more with CH2Cl2. The combined extracts are dried over K2CO3 and concentrated. The crude material is purified by flash chromatography on silica gel, affording 107 mg (72%) of 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta [e]azulene-9-carboxylic acid ethyl ester. Electrospray mass spectrum: m/z 343 [M−1]; 1H NMR (CDCl3, 300 MHz) δ8.78 (br, 1H), 7.17 (d, J=2.7 Hz, 1H), 7.15 (s, 1H), 4.27 (q, J=7.2 Hz, 2H), 4.12 (t, J=7.2 Hz, 2H), 2.91 (m, 2H), 2.81 (m, 2H), 2.65 (m, 2H), 2.59 (q, J=7.2 Hz, 4H), 1.94 (m, 2H), 1.31 (t, J=7.2 Hz, 3H), 1.02 (t, J=7.2 Hz, 6H)

reactant | 2-(2-methanesulfonyloxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 0.43 mmol, 158 mg | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)CCOS(=O)(=O)C | C16H21N3O5S
reactant | diethylamine | >3 eq | C(C)NCC | C4H11N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | CC#N | C2H3N
product | 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta [e]azulene-9-carboxylic acid ethyl ester | 107 mg, 72% | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)CCN(CC)CC | C19H28N4O2
